US07053071B2
To 3-chloro-4-hydroxybenzaldehyde (5.00 g, 31.9 mmol) and pyridine (5.0 mL, 61.8 mmol) in dichloromethane (40 mL) at 0° C. was added acetic anhydride (4.0 mL, 42.3 mmol) over a 20-minute period. The mixture was stirred for 1.5 hours more, warmed to 20° C., then worked-up (10% hydrochloric acid wash) to afford 4-acetoxy-3-chlorobenzaldehyde as a pale-yellow solid (6.01 g, 92% yield): m.p. 33–35° C.; Rf0.30 (20% ethyl acetate/hexane); 1H NMR spectrum (400 MHz, CDCl3) δ 2.39 (s, 3, CH3), 7.34 (d, J=8.0 Hz, 1, ArH), 7.82 (dd, J=7.6,2 Hz, 1, ArH), 7.98 (d, J=1.6 Hz, 1, ArH), 9.96 ppm (s, 1, CHO).

reactant | 3-chloro-4-hydroxybenzaldehyde | 31.9 mmol, 5.00 g | ClC=1C=C(C=O)C=CC1O | C7H5ClO2
reactant | pyridine | 61.8 mmol, 5.0 mL | N1=CC=CC=C1 | C5H5N
reactant | acetic anhydride | 42.3 mmol, 4.0 mL | C(C)(=O)OC(C)=O | C4H6O3
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 4-acetoxy-3-chlorobenzaldehyde | 6.01 g, 92% yield | C(C)(=O)OC1=C(C=C(C=O)C=C1)Cl | C9H7ClO3
